data/polar.json
{"reaction_name": "Aza-Michael addition", "rsmi": "[CH3:1][CH2:6][O:5][C:16]([CH:2]=[C:7]([CH3:17])[N:22]=[N:10][C:3](=[O:11])[NH:15][c:18]1[cH:20][cH:8][cH:19][cH:9][cH:21]1)=[O:12].[N+:4](=[N-:13])=[N-:14]>>[CH3:1][CH2:6][O:5][C:16]([CH:2]([C:7]([CH3:17])=[N:22][N:10]=[C:3]([O-:11])[NH:15][c:18]1[cH:20][cH:8][cH:19][cH:9][cH:21]1)[N-:13][N+:4]#[N:14])=[O:12]", "epd": [["LP-/Pi+", [14], [4, 14]], ["Pi-/Sigma+", [13, 4], [13, 2]], ["Pi-/Pi+", [2, 7], [7, 22]], ["Pi-/Pi+", [22, 10], [10, 3]], ["Pi-/LP+", [3, 11], [11]]]}
{"reaction_name": "Sulfoxide elimination", "rsmi": "[cH:1]1[cH:3][c:11]([S:5](=[O:10])[CH:12]([CH3:6])[CH:8]([CH3:7])[H:13])[cH:4][cH:2][cH:9]1>>[CH3:6][CH:12]=[CH:8][CH3:7].[cH:1]1[cH:3][c:11]([S:5][O:10][H:13])[cH:4][cH:2][cH:9]1", "epd": [["Sigma-/Pi+", [8, 13], [8, 12]], ["Pi-/LP+", [5, 10], [10]], ["LP-/Sigma+", [10], [10, 13]], ["Sigma-/LP+", [5, 12], [5]]]}
{"reaction_name": "PyBOP coupling", "rsmi": "[NH:1]([CH3:8])[H:12].[O:2]=[C:11]([OH:3])[c:4]1[cH:5][cH:9][cH:7][cH:10][cH:6]1>>[NH:1]([CH3:8])[C:11](=[O:2])[c:4]1[cH:5][cH:9][cH:7][cH:10][cH:6]1.[OH:3][H:12]", "epd": [["LP-/Sigma+", [1], [1, 11]], ["Pi-/LP+", [2, 11], [2]], ["LP-/Pi+", [2], [2, 11]], ["Sigma-/LP+", [3, 11], [3]], ["LP-/Sigma+", [3], [3, 12]], ["Sigma-/LP+", [1, 12], [1]]]}
{"reaction_name": "Electrophilic fluorination", "rsmi": "[O-:1][C:21](=[CH:6][c:9]1[cH:15][cH:7][cH:29][cH:8][cH:16]1)[O:28][CH2:30][CH3:14].[O:2]=[S:23](=[O:3])([N:20]([F:19])[S:22](=[O:4])(=[O:5])[c:31]1[cH:10][cH:24][cH:17][cH:27][cH:13]1)[c:32]1[cH:11][cH:25][cH:18][cH:26][cH:12]1>>[O:1]=[C:21]([CH:6]([c:9]1[cH:15][cH:7][cH:29][cH:8][cH:16]1)[F:19])[O:28][CH2:30][CH3:14].[O:2]=[S:23](=[O:3])([N-:20][S:22](=[O:4])(=[O:5])[c:31]1[cH:10][cH:24][cH:17][cH:27][cH:13]1)[c:32]1[cH:11][cH:25][cH:18][cH:26][cH:12]1", "epd": [["LP-/Pi+", [1], [21, 1]], ["Pi-/Sigma+", [6, 21], [6, 19]], ["Sigma-/LP+", [19, 20], [20]]]}
{"reaction_name": "Nucleophilic addition to an oxocarbenium C=O+ center", "rsmi": "[CH:3](=[O+:16][CH3:15])[c:19]1[cH:11][cH:9][cH:8][cH:10][cH:12]1.[O:1]([CH3:4])[c:17]1[cH:6][cH:14][cH:7][c:18]([O:2][CH3:5])[cH:13]1>>[O+:1]([CH3:4])=[C:17]1[CH:6]([CH:3]([O:16][CH3:15])[c:19]2[cH:11][cH:9][cH:8][cH:10][cH:12]2)[CH:14]=[CH:7][C:18]([O:2][CH3:5])=[CH:13]1", "epd": [["LP-/Pi+", [1], [1, 17]], ["Pi-/Sigma+", [6, 14], [3, 6]], ["Pi-/Pi+", [7, 18], [7, 14]], ["Pi-/LP+", [3, 16], [16]], ["Pi-/Pi+", [13, 17], [13, 18]]]}
{"reaction_name": "Nucleophilic addition to an oxocarbenium C=O+ center", "rsmi": "[CH:4](=[O+:16][CH3:15])[c:17]1[cH:9][cH:7][cH:5][cH:8][cH:10]1.[cH:1]1[cH:3][cH:12][c:6]([CH3:2])[cH:18][c:14]1[O:11][CH3:13]>>[CH:1]1=[CH:3][CH:12]([CH:4]([O:16][CH3:15])[c:17]2[cH:9][cH:7][cH:5][cH:8][cH:10]2)[C:6]([CH3:2])=[CH:18][C:14]1=[O+:11][CH3:13]", "epd": [["LP-/Pi+", [11], [14, 11]], ["Pi-/Pi+", [18, 14], [6, 18]], ["Pi-/Sigma+", [12, 6], [12, 4]], ["Pi-/LP+", [4, 16], [16]]]}
{"reaction_name": "General nucleophilic addition to a neutral imine", "rsmi": "[C:1]([O:8][C:20](=[O:5])[N:16]=[CH:7][c:4]1[cH:2][cH:13][cH:15][cH:14][cH:3]1)([CH3:17])([CH3:18])[CH3:19].[N+:6](=[CH:10][CH3:9])([O-:11])[O-:12]>>[C:1]([O:8][C:20]([O-:5])=[N:16][CH:7]([c:4]1[cH:2][cH:13][cH:15][cH:14][cH:3]1)[CH:10]([N+:6](=[O:11])[O-:12])[CH3:9])([CH3:17])([CH3:18])[CH3:19]", "epd": [["LP-/Pi+", [11], [6, 11]], ["Pi-/Sigma+", [10, 6], [10, 7]], ["Pi-/Pi+", [7, 16], [16, 20]], ["Pi-/LP+", [20, 5], [5]]]}
{"reaction_name": "Indole addition to iminium ions", "rsmi": "[CH2:8]=[N+:13]([CH3:11])[CH3:12].[cH:1]1[c:3]2[nH:4][cH:6][c:2]([H:14])[c:10]2[cH:7][cH:5][cH:9]1.[N-:15]([H:16])[H:17]>>[cH:1]1[c:3]2[nH:4][cH:6][c:2]([CH2:8][N:13]([CH3:11])[CH3:12])[c:10]2[cH:7][cH:5][cH:9]1.[N:15]([H:14])([H:16])[H:17]", "epd": [["LP-/Sigma+", [15], [14, 15]], ["Sigma-/Sigma+", [2, 14], [2, 8]], ["Pi-/LP+", [8, 13], [13]]]}
{"reaction_name": "Conjugate addition to an electron-poor quinone", "rsmi": "[C:2]1([Cl:19])=[C:3]([Cl:20])[C:7](=[O:10])[C:17]([C:22]#[N:24])=[C:18]([C:23]#[N:25])[C:6]1=[O:9].[cH:1]1[cH:11][cH:5][c:15]2[c:4]([cH:21]1)[CH:26]([Zn-:14]([Cl:12])[Cl:13])[CH:16]=[CH:8]2>>[Cl:12][Zn:14][Cl:13].[cH:1]1[cH:11][cH:5][c:15]2[c:4]([cH:21]1)[CH:26]([C:17]1([C:22]#[N:24])[C:7](=[O:10])[C:3]([Cl:20])=[C:2]([Cl:19])[C:6]([O-:9])=[C:18]1[C:23]#[N:25])[CH:16]=[CH:8]2", "epd": [["Sigma-/Sigma+", [26, 14], [26, 17]], ["Pi-/Pi+", [17, 18], [18, 6]], ["Pi-/LP+", [6, 9], [9]]]}
{"reaction_name": "Crossed Cannizzaro reaction", "rsmi": "[C:1]([c:3]1[cH:13][cH:9][cH:4][cH:10][cH:14]1)(=[O:7])[H:15].[C:2]([H:5])([H:6])=[O:8].[H:11][O-:12]>>[C:1]([c:3]1[cH:13][cH:9][cH:4][cH:10][cH:14]1)([H:5])([O:7][H:11])[H:15].[C:2]([H:6])(=[O:8])[O-:12]", "epd": [["Sigma-/LP+", [11, 12], [12]], ["LP-/Sigma+", [12], [2, 12]], ["Pi-/LP+", [2, 8], [8]], ["LP-/Pi+", [8], [2, 8]], ["Pi-/LP+", [1, 7], [7]], ["LP-/Sigma+", [7], [7, 11]], ["Pi-/LP+", [2, 8], [8]], ["LP-/Pi+", [8], [2, 8]], ["Sigma-/Sigma+", [2, 5], [1, 5]]]}
